US06441006B2
5-Methoxy-3-pyridylamine
Crude 5-bromo-3-methoxypyridine (3.50 g, 18.62 mmol) was dissolved in methanol (50 mL) and added to concentrated ammonium hydroxide (29.7%, 14.8 M, 50 mL) and copper(I) bromide (2.67 g, 18.62 mmol) in a heavy-walled glass pressure-tube apparatus. The tube was flushed with nitrogen and sealed. The mixture was stirred and heated at 170-172° C. (oil bath temperature) for 24 h. After cooling, the solution was concentrated by rotary evaporation to a gummy residue. The residue was diluted with sodium carbonate solution (17.6%, 200 mL) and extracted with CH2Cl2 (4×50 mL). The combined CH2Cl2 extracts were dried (MgSO4), filtered, and concentrated by rotary evaporation to give 1.26 g of a cream-brown solid. The aqueous phase was re-extracted with CH2Cl2 (4×50 mL). The combined CH2Cl2 extracts were similarly dried and concentrated to give an additional 0.34 g of a cream-brown solid, bringing the total yield to 1.60 g (69.2%).

reactant | 5-bromo-3-methoxypyridine | 18.62 mmol, 3.50 g | BrC=1C=C(C=NC1)OC | C6H6BrNO
reactant | ammonium hydroxide | 14.8 M, 50 mL | [OH-].[NH4+]
solvent | methanol | 50 mL | CO | CH4O
catalyst | copper(I) bromide | 18.62 mmol, 2.67 g | [Cu]Br
product | 5-Methoxy-3-pyridylamine | 1.26 g | COC=1C=C(C=NC1)N | C6H8N2O
